US09260429B2
(C) 9-(4-fluorophenethyl)-6-chloro-2,3,4,9-tetrahydro-2-methyl-1H-pyrido[3,4-b]indole (Compound 3)
The title compound was prepared by General Method 4. 2-(1-(4-fluorophenethyl)-5-chloro-1H-indol-3-yl)-N-methylethanamine (600 mg) was dissolved in acetonitrile (10 mL) containing 5% TFA and the reaction mixture was heated to reflux. 37% aqueous formaldehyde (0.17 mL) was added and the reflux was continued for 15-20 min. The reaction mixture was cooled to 25° C., concentrated under reduced pressure and partitioned between ethyl acetate and satd. Aqueous NaHCO3. The organic layer was dried over sodium sulfate, evaporated under reduced pressure and the residue was purified by silica gel chromatography (eluent 6% methanol-chloroform) to obtain 170 mg of product. The free base was converted into its HCl salt by treatment of HCL-ether. 1H NMR (CDCl3) δ 13.1 (s, 1H), 7.25-7.1 (m, 3H), 6.8 (m, 2H), 6.7 (m, 2H), 4.4 (m, 1H), 4.2 (m, 1H), 3.9 (m, 1H), 3.4 (m, 1H), 3.2-3.0 (m, 3H), 2.8 (m, 3H), 2.6 (s, 3H). MS m/z observed 343. HPLC RT 5.16 min.

reactant | 2-(1-(4-fluorophenethyl)-5-chloro-1H-indol-3-yl)-N-methylethanamine | 600 mg | FC1=CC=C(CCN2C=C(C3=CC(=CC=C23)Cl)CCNC)C=C1 | C19H20ClFN2
reactant | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | formaldehyde | 0.17 mL | C=O | CH2O
solvent | acetonitrile | 10 mL | C(C)#N | C2H3N
product | 9-(4-fluorophenethyl)-6-chloro-2,3,4,9-tetrahydro-2-methyl-1H-pyrido[3,4-b]indole | FC1=CC=C(CCN2C3=C(C4=CC(=CC=C24)Cl)CCN(C3)C)C=C1 | C20H20ClFN2
